Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
ovarian hyperstimulation syndrome
 
Major Surgical or Invasive Procedure:
paracentesis 

 
History of Present Illness:
Ms. ___ is a ___ G2P1 with +UPT ___ following 
embryo transfer ___ complicated by ___ s/p paracentesis ___ 
who was sent to GYN triage by ___ for increase abdominal 
ascites seen on US. 

In triage, Ms. ___ stated that on ___, she began 
having some abdominal discomfort and general fatigue following 
recent embryo transfer on ___. After speaking to ___ on 
___, Ms. ___ presented to their office on ___ 
morning. She was then found to have abdominal ascites by 
ultrasound and subsequently underwent a therapeutic paracentesis 
with removal of 3L of abdominal ascites. She had immediate 
improvement in her abdominal discomfort and was sent home. 

Later that evening, however, she developed a severe dull, 
temporal and frontal HA, ___ in severity. She took some 
tylenol which brought some relieve. At that time, she also 
endorsed "blind spot" in her vision, photosensitivity, nausea, 
and emesis, which ultimately prompted her to present to the 
___ ED on
___ afternoon.

While in the ED, she underwent a pelvic US and an MRI of the HA 
given concern for thrombosis. Her MRI showed no evidence of 
thrombosis and the pelvic US was remarkable for moderate volume 
simple ascites. She was found to have hct >50 and was discharged 
home with prophylaxis lovenox. 

Overnight, her HA was persistent, had minimal PO intake, and 
presented to ___ today for follow up. She was again found to 
have significant abdominal ascites and was thus sent to GYN 
triage for a therapeutic paracentesis in the setting of 
abdominal discomfort/pain. 

In GYN triage, the patient continued to endorse a HA, as well as 
an episode of diarrhea but otherwise denied fever, chills, SOB, 
CP, vaginal bleeding, or discharge. She was admitted for 
overnight monitoring with plan for a paracentesis in the 
morning. 

 
Past Medical History:
PMH: thyroid cyst, removed half of thyroid (synthroid ___ in
___

PSH: L salpino-oophorectomy in ___ for ovarian torsion

OBHx: 
G1: ___: C-section for arrest of descent, FT, uncomplicated,
girl, IUI
G2: current, IVF

GYNHx: denies, no h/o STIs 

 
Social History:
___
Family History:
Family history was non-contributory. 
 
Physical Exam:
Vitals: stable and within normal limits
General: NAD, comfortable
CV: RRR, normal s1 and s2, no m/r/g
Lungs: normal work of breathing, CTAB
Abdomen: soft, minimally tender to palpation diffusely, 
incision/dressing clean/dry/intact
GU: no vaginal bleeding, no foley 
Extremities: no edema, no TTP 
 
Pertinent Results:
___ 06:06PM   ___ PTT-25.5 ___
___ 06:06PM   ___
___ 08:13PM   LACTATE-1.4 K+-5.0
___ 07:36PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:36PM URINE  RBC-0 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-3 TRANS EPI-<1

___ 01:19PM   GLUCOSE-133* UREA N-14 CREAT-0.7 SODIUM-131* 
POTASSIUM-5.3* CHLORIDE-97 TOTAL CO2-17* ANION GAP-17*
___ 01:19PM   ALT(SGPT)-28 AST(SGOT)-30 ALK PHOS-29* TOT 
BILI-0.5
___ 01:19PM   LIPASE-31
___ 01:19PM   ALBUMIN-3.5
___ 01:19PM   HCG-289
___ 01:19PM   WBC-27.3* RBC-5.90* HGB-18.1* HCT-53.3* 
MCV-90 MCH-30.7 MCHC-34.0 RDW-12.1 RDWSD-39.9
___ 01:19PM   NEUTS-85.8* LYMPHS-8.7* MONOS-4.4* EOS-0.1* 
BASOS-0.3 IM ___ AbsNeut-23.36* AbsLymp-2.38 AbsMono-1.21* 
AbsEos-0.02* AbsBaso-0.09*
___ 01:19PM   PLT COUNT-373
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
presenting to GYN triage referred by BIVF for abdominal pain in 
the setting of Ovarian hyperstimulation syndrome.

On HD1, Ms. ___ continued to endorse abdominal pain and 
discomfort. Her HA had completely resolved after a dose of 
reglan overnight. She otherwise denied SOB, chest pain, vision 
changes, abdominal pain, or vaginal bleeding. She was scheduled 
to have a paracentesis that day by ___. 

Electrolytes were ordered and she was found to be hyponatremic 
to 129. She underwent a paracentesis with the removal of 2.5 L. 

After her paracentesis a second set of electrolytes were ordered 
and her sodium level was stable. 
The patient was tolerating a regular diet, ambulating 
independently, and was discharged home in stable condition with 
outpatient follow-up scheduled.
 
Medications on Admission:
Synthroid, PNV, progesterone, crinone
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
do not take more than 4000mg in 24 hours.  
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*0 
2.  Enoxaparin Sodium 40 mg SC DAILY 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
3.  Crinone (proGESTerone micronized) 8 % vaginal DAILY  
4.  Levothyroxine Sodium 100 mcg PO DAILY  
5.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ovarian hyperstimulation syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after you were found 
to have abdominal ascites at BIVF. You underwent a therapeutic 
paracentesis. You have recovered well and the team believes you 
are ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.

 
Followup Instructions:
___